US04889855
6-Amino-2,3-dihydroxybenzo(f)quinoxaline
A solution of stannous chloride dihydrate (3.7 g, 16 mmol) in 10 ml of conc. hydrochloric acid was added dropwise to a stirred suspension of 2,3-dihydroxy-6-nitrobenzo(f)quinoxaline (1.3 g, 5 mmol) in 8 ml of conc. hydrochloric acid. Then the mixture was stirred at 60°-70° C. on an oil bath for 2 h. After cooling on ice, the precipitate was collected, dissolved in boiling water (1 l), filtered while hot, and neutralized to pH 6 with solid sodium hydrogen carbonate. The yellow product was isolated and recrystallized from DMF/water, washed with water, ethanol and ether and finally dried at 110° C. to give 0.90 g (63%) of pure title compound.

reactant | 2,3-dihydroxy-6-nitrobenzo(f)quinoxaline | 5 mmol, 1.3 g | OC=1C(=NC=2C=C(C3=C(C2N1)C=CC=C3)[N+](=O)[O-])O | C12H7N3O4
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | hydrochloric acid | 8 ml | Cl | ClH
product | 6-Amino-2,3-dihydroxybenzo(f)quinoxaline | 0.90 g, 63% | NC=1C2=C(C=3N=C(C(=NC3C1)O)O)C=CC=C2 | C12H9N3O2
